US05864039
5-(4-tert-Butoxycarbonylaminomethylpiperidin-1-yl)pentylamine (2.00 g) was dissolved in methylene chloride (80 ml) and a solution of 4-chlorophenyl isocyanate (1.13 g) in methylene chloride was dropwise added under ice-cooling. The mixture was stirred at room temperature for 15 hr, and the reaction mixture was concentrated under reduced pressure to give 4-tert-butoxycarbonylaminomethyl-1-(5-(3-(4-chlorophenyl)ureido)pentyl)piperidine.

reactant | 5-(4-tert-Butoxycarbonylaminomethylpiperidin-1-yl)pentylamine | 2.00 g | C(C)(C)(C)OC(=O)NCC1CCN(CC1)CCCCCN | C16H33N3O2
reactant | 4-chlorophenyl isocyanate | 1.13 g | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
solvent | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
product | 4-tert-butoxycarbonylaminomethyl-1-(5-(3-(4-chlorophenyl)ureido)pentyl)piperidine | C(C)(C)(C)OC(=O)NCC1CCN(CC1)CCCCCNC(=O)NC1=CC=C(C=C1)Cl | C23H37ClN4O3
